US09029545B2
2-Bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-amine
Diphenyl ether (20 mL, 126 mmol) was added to 4-amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylic acid (Description 48) (1.861 g, 4.21 mmol). The mixture was heated to 200° C. and stirred at 200° C. for 4 h. The mixture cooled to RT and was stirred overnight at RT. The mixture was then diluted with DCM and purified by chromatography on silica, eluting with a gradient of 0-40% ethyl acetate in cyclohexane, to give the title compound (1.0 g). LCMS (A) m/z: 399 [M+1]+, Rt 0.94 min (acidic).

reactant | Diphenyl ether | 126 mmol, 20 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 4-amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylic acid | 4.21 mmol, 1.861 g | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C2=CC(=CC=C2)Br)Br | C15H10Br2N2O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridin-4-amine | 1.0 g | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)Br | C14H10Br2N2S
